Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / ibuprofen / Humalog / all fish
 
Attending: ___.
 
Chief Complaint:
Critical Limb Ischemia
 
Major Surgical or Invasive Procedure:
Right below the knee amputation 

 
History of Present Illness:
The patient is a ___ gentleman with a past medical 
history pertinent for protein C deficiency, recurrent 
thromboembolic disorder, and multiple revascularizaton 
procedures, including most recently, a right lower extremity 
femoral to AT bypass graft on ___. Patient reports 
increasing numbness and pain, and a mottled appearance to the 
foot, over several days leading up to his visit to the ED. He 
was admitted, started on a heparin drip and evaluated for 
potential revascularization.
 
Past Medical History:
Past Medical History:
- Chronic thromboembolic pulmonary hypertension (CTEPH). s/p PTE
___ with very good hemodynamic result. Total arrest time 18
minutes.
- Recurrent ___. First episode of RLE DVT in late ___, treated
with warfarin for one year. Then presented with acute pulmonary
embolism with bilateral DVT in ___, unprovoked (had prior 3 
hr
car ride only). Treated with IV tPA 50 mg, and subsequently
anticoagulated with rivaroxaban, now warfarin since PTE.
- Protein C deficiency
- Diabetes, thought to be more type I physiology, on
insulin/metformin. Diagnosed around ___, on insulin almost 
since
diagnosis
- Lower extremity neuropathy, thought due to diabetes vs. lumbar
disc disease
- Chronic back pain/DJD
- Hyperlipidemia
- Retained epicardial pacer wire with PTE surgery 
- s/p bilateral knee surgeries

Past Surgical History: 
- ___ Revision of left below knee amputation site. 
- ___ Left below knee amputation
- ___ Left SFA to ___ bypass with in-situ vein, left 
fourth
toe amputation, angioscopy with lysis of valves.
- ___ Left lower extremity angiogram
 
Social History:
___
Family History:
Mother had recurrent ___, died of pancreatic cancer in her ___ 
but clots started in her ___. Father had PE around age ___ and 
told patient he had Factor V Leiden. Grandfather with lung 
cancer. There is no known family history of pulmonary 
hypertension.
 
Physical Exam:
Vitals: 98.5  128/81  114  18  99%/RA
General: alert and oriented x 3, seated comfortably, NAD
HEENT: normocephalic, skin anicteric, MMM
CV: RRR
Lungs: breathing unlabored
Extremities: Right leg s/p BKA, incision well approximated with 
staples intact.  No erythema or drainage appreciated.  Left leg 
s/p BKA with well healed incision.

 
Pertinent Results:
Labs----------------
___ 05:22AM BLOOD WBC-6.9 RBC-3.18* Hgb-8.7* Hct-28.0* 
MCV-88 MCH-27.4 MCHC-31.1* RDW-16.3* RDWSD-52.7* Plt ___
___ 05:22AM BLOOD Plt ___
___ 05:22AM BLOOD Glucose-68* UreaN-16 Creat-0.4* Na-143 
K-4.7 Cl-102 HCO3-28 AnGap-13
___ 05:22AM BLOOD Calcium-8.8 Phos-4.0 Mg-1.8

Imaging-----------------

EXAMINATION:  CTA CHEST WITH CONTRAST   
FINDINGS:  
  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level.  There are linear and slightly acentric 
filling defects within the segmental right lower lobe pulmonary 
arteries seen on series 6 images 165 through 173 and series 7, 
images 48-51 compatible with chronic pulmonary embolus and 
slightly less prominent compared to the prior CT.  There are no 
new filling defects to indicate acute pulmonary embolus.  The 
thoracic aorta is normal in caliber without evidence of 
dissection or intramural hematoma.  The heart, pericardium, and 
great vessels are within normal limits. No pericardial effusion 
is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass.  Questioned 
right hilar 
lymphadenopathy on preliminary interpretation corresponds to a 
normal azygos vein. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: Stable subtle diffuse centrilobular pulmonary 
nodules are again visualized.  Stable mild dependent 
subsegmental atelectasis/scarring.  The lungs are otherwise 
clear without masses or areas of parenchymal opacification.  The 
airways are patent to the level of the segmental bronchi 
bilaterally. 
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
ABDOMEN:  Included portion of the upper abdomen is unremarkable. 

  
BONES: Status post median sternotomy with intact wires.  No 
suspicious osseous abnormality is seen.? There is no acute 
fracture. 
  
  
IMPRESSION:  
  
1.  No acute pulmonary embolus.  
2.  Minimal residual chronic embolus segmental branch right 
lower lobe 
pulmonary arteries improved from prior CTA. 
3.  Stable diffuse ill-defined centrilobular nodules again may 
represent RB ILD given patient's smoking history. 

EXAMINATION:  BILAT LOWER EXT VEINS  
FINDINGS:  
  
There is partially occlusive, eccentric thrombus in the mid 
right common 
femoral vein, deep femoral vein, and then from the mid right 
femoral into the popliteal vein. 
  
There is more extensive, partially occlusive thrombus with 
similar eccentric appearance extending from the mid left common 
femoral vein into the deep femoral and femoral veins extending 
into the popliteal vein. 
  
There is normal respiratory variation in the bilateral common 
femoral veins. 
  
No evidence of medial popliteal fossa (___) cyst. 
  
IMPRESSION:  
  
Extensive partially occlusive thrombus throughout the bilateral 
common 
femoral, femoral, and popliteal veins, left greater than right, 
which are 
potentially chronic given its eccentric appearance.  Clot burden 
is not as 
severe as the ultrasound of ___. 

 
Brief Hospital Course:
___ y.o. male with a past medical history pertinent for protein C 
deficiency and recurrent thromboembolic disorder (including 
chronic thromboembolic pulmonary hypertension [CTEPH] s/p 
pulmonary thromboendarterectomy at ___ in ___ multiple 
recurrent bilateral DVTs), maintained on lovenox 80 mg bid and 
life long Coumadin.  His vascular surgical history is pertinent 
for severe PAD and has priory undergone a attempt bypass (SFA to 
___ bypass with non-reversed GSV on ___ revascularization, 
which failed due to DVT and superimposed cellulitis requiring 
BKA in ___. He underwent a RLE fem-AT BP w/ spliced vein on 
___. He was discharged on ___. He states that when he left 
___, his foot was warm, and had intact sensation. He states 
that for the past week, the R foot has been cold and painful. He 
reports that it is now numb to the level of the ankle. He became 
increasingly
concerned when the foot became mottled, which is why he is 
seeking care today. 

On admission the patient was started on a therapeutic heparin 
drip as well as pain management.  He was consented for a right 
below the knee amputation.  Due to his foot with a prolonged 
period of being cold and mottled and pulseless, he was brought 
to the operating room on hospital day 2 for a right below the 
knee amputation.  Please see the surgeon's operative note for 
details.  After a brief uncomplicated stay in the PACU the 
patient was brought up to the vascular surgery floor where he 
remained throughout his admission.

The patient was resumed on a heparin drip postoperatively which 
remained therapeutic throughout his admission.  The hematology 
service was consulted for management of his outpatient 
anticoagulation regimen.  After evaluation of the patient he 
recommended Lovenox 80 mg twice daily as well as an aspirin 
regimen for prevention of DVTs and management of his peripheral 
arterial disease.  The medicine service was consulted for 
management of the patient's persistent sinus tachycardia 
throughout his admission.  Due to the patient's blood loss 
intraoperatively and hemoglobin dropped from 12.2 on admission 
to 7.7 on postoperative day 2, the patient was given 1 unit of 
PRBCs.  After brief transfusion of this unit of red cells the 
patient developed a febrile transfusion reaction and the 
transfusion was stopped.  A fever workup commenced which was 
negative.  On postoperative day 3 the patient remained 
tachycardic, he spiked a fever and had rigors.  Another fever 
workup was sent which was also negative. The patient received 1 
unit of packed red blood cells.

Throughout his admission the patient's pain was managed with the 
chronic pain service.  At home the patient takes gabapentin, 
oxycodone for his pain management.  Postoperatively the patient 
was on a Dilaudid PCA and was weaned to p.o. Dilaudid prior to 
discharge.  After discharge at his acute rehab facility the 
patient will need to follow-up with his outpatient pain 
management provider for titration of his narcotic pain 
medications.

The patient has poorly controlled diabetes and the ___ 
diabetic service was consulted for more strict control of his 
blood glucose.  The patient was restarted on his home metformin, 
and his insulin dose was adjusted until there was more 
appropriate control of his blood glucose between 100 200 on 
fingersticks.  The patient was encouraged to follow-up with his 
primary care provider for outpatient management of his diabetes.

Throughout his admission the patient worked with physical 
therapy and actively participated in his care.  Physical therapy 
recommended discharge to an acute rehab facility.

Prior to discharge the patient was tolerating a regular diet 
without any nausea or vomiting, he was working with physical 
therapy and occupational therapy to complete his activities of 
daily living.  His pain was well-controlled on oral pain 
medications.  He was doing well postoperatively and was deemed 
appropriate for discharge to an acute rehab facility where he 
can continue his recovery.  He will follow-up in 1 month's time 
in the vascular surgery clinic for his wound check and staple 
removal. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO BID 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Acetaminophen 1000 mg PO Q8H 
5. Aspirin EC 325 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. Cyclobenzaprine 5 mg PO TID 
8. Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
9. FLUoxetine 40 mg PO DAILY 
10. Jardiance (empagliflozin) 10 mg oral DAILY 
11. Lisinopril 2.5 mg PO DAILY 
12. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 
13. Pantoprazole 20 mg PO Q24H 
14. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
2.  HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN Pain - Severe 
take 1 pill every 4 hours as neede for pain 
RX *hydromorphone [Dilaudid] 4 mg 1 tablet(s) by mouth 4 hours 
as needed Disp #*30 Tablet Refills:*0 
3.  Glargine 45 Units Bedtime
NOVOLOG 8 Units Breakfast
NOVOLOG 8 Units Lunch
NOVOLOG 8 Units Dinner
Insulin SC Sliding Scale using novalog Insulin 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth BID PRN Disp 
#*60 Tablet Refills:*0 
6.  Acetaminophen 1000 mg PO Q8H  
7.  Aspirin EC 325 mg PO DAILY  
8.  Cyclobenzaprine 5 mg PO TID 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times a day 
Disp #*6 Tablet Refills:*0 
9.  Enoxaparin Sodium 80 mg SC Q12H  
10.  FLUoxetine 40 mg PO DAILY  
11.  Gabapentin 600 mg PO BID  
12.  Lisinopril 2.5 mg PO DAILY  
13.  MetFORMIN (Glucophage) 1000 mg PO BID  
14.  Metoprolol Succinate XL 50 mg PO DAILY  
15.  Pantoprazole 20 mg PO Q24H  
16.  Simvastatin 40 mg PO QPM  
17.  Tamsulosin 0.4 mg PO QHS  
18. HELD- OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate  This medication was held. Do not restart OxyCODONE 
(Immediate Release) until you are no longer taking dilaudid, 
please meet with your prescriber to transition from dialudid to 
oxycodone as an outpatient

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Peripheral arterial disease with occluded right femoral to AT 
bypass graft

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair. - Non weight bearing RLE ___ weeks 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent Right below the knee amputation. You have now 
recovered from surgery and are ready to be discharged. Please 
follow the instructions below to continue your recovery:

ACTIVITY:  
 On the side of your amputation you are non weight bearing for 
___ weeks.  
 You should keep this amputation site elevated when ever 
possible.  
 You may use the opposite foot for transfers and pivots. 
 No driving until cleared by your Surgeon. 
 No heavy lifting greater than 20 pounds for the next 3 weeks. 
 

BATHING/SHOWERING:  
 You may shower when you get home 
 No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 
 
 WOUND CARE: 
 Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal.  
 When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.

 CAUTIONS: 
 If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.   
 DIET: 
 Low fat, low cholesterol / if you are diabetic  follow your 
dietary restrictions as before  
 CALL THE OFFICE FOR: ___ 
 Bleeding, redness of, or drainage from your foot wound 
 New pain, numbness or discoloration of the skin on the 
effected foot 
 Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site.  

 
Followup Instructions:
___